US06265415B1
Synthesis of 8-(2,6-diethylbenzylamino) 2,3,6-trimethylimidazo[1,2-a]pyridine
A stirred mixture of 8-amino-2,3,6-trimethylimidazo[1,2-a]pyridine (0.5 g, 2.8 mmol), 2,6-diethylbenzaldehyde (0.7 g, 4.3 mmol) and zinc(II)chloride (0.44 g, 3 mmol) in 50 ml methanol was treated with sodium cyanoborohydride (0.19 g, 3 mmol) and then refluxed for 20 h. The methanol was evaporated under reduced pressure and the residue was dissolved in dichloromethylene and water. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel with dichloromethylene first and then dichloromethylene:ethylacetate (1:1) which yielded 0.42 g of the title compound.

reactant | 8-amino-2,3,6-trimethylimidazo[1,2-a]pyridine | 2.8 mmol, 0.5 g | NC=1C=2N(C=C(C1)C)C(=C(N2)C)C | C10H13N3
reactant | 2,6-diethylbenzaldehyde | 4.3 mmol, 0.7 g | C(C)C1=C(C=O)C(=CC=C1)CC | C11H14O
reactant | sodium cyanoborohydride | 3 mmol, 0.19 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | zinc(II)chloride | 3 mmol, 0.44 g | [Cl-].[Zn+2].[Cl-]
product | 8-(2,6-diethylbenzylamino) 2,3,6-trimethylimidazo[1,2-a]pyridine | 0.42 g | C(C)C1=C(CNC=2C=3N(C=C(C2)C)C(=C(N3)C)C)C(=CC=C1)CC | C21H27N3
